US05569653
(A) N-[2-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide hydrochloride
A 5.0 g sample of N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide was suspended in methanol (130 ml) and was made acidic with ethereal-HCl. After stirring for 1 hour, anhydrous ether (100 ml) was added and the suspension was stirred for an additional 30 minutes. The solid was collected and dried to afford 4.5 g of an off-white powder. This was combined with an additional sample (7.3 g total) and recrystallization from MeOH gave 4.3 g of the salt as an off-white powder, mp=265°-268° C.

reactant | N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H20FN5O2
reactant | HCl | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | methanol | 130 ml | CO | CH4O
product | N-[2-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide hydrochloride | 4.5 g | Cl.FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C21H20FN5O2.ClH/c22-14-5-6-17-18(13-14)23-24-19(17)26-10-7-25(8-11-26)9-12-27-20(28)15-3-1-2-4-16(15)21(27)29;/h1-6,13H,7-12H2,(H,23,24);1H
